US04826974
1-(2-Methoxyphenyl)-3-(4-methoxyphenylimino-3-[4-(4-methylbenzyl)-1-piperazinyl]propyne can be prepared by working as in Example 11 but starting with a solution of N-dichloromethylene-p-anisidine (20.6 g) in ethyl ether (200 cc) to which a solution of 4-(4-methylbenzyl)piperazine (38.4 g) in tetrahydrofuran (150 cc) is added. The solution obtained after filtration is added in the course of 30 minutes at a temperature of about -70° C. to a solution of 2-(2-methoxyphenyl)ethynyllithium obtained by adding, in the course of 20 minutes, at a temperature of about -70° C., a 1.6M solution (126 cc) of butyllithium in hexane to a solution of 2-methoxy-β,β-dibromostyrene (29.5 g) in tetrahydrofuran (300 cc). 1-(2-Methoxyphenyl)-3-(4-methoxyphenylimino)-3-[4-(4-methylbenzyl)-1-piperazinyl]propyne (30.6 g), m.p. 83° C., is thereby obtained.

reactant | 4-methoxyphenylimino-3-[4-(4-methylbenzyl)-1-piperazinyl]propyne | COC1=CC=C(C=C1)N=C(C#C)N1CCN(CC1)CC1=CC=C(C=C1)C | C22H25N3O
reactant | N-dichloromethylene-p-anisidine | 20.6 g | ClC(=NC1=CC=C(OC)C=C1)Cl | C8H7Cl2NO
reactant | 4-(4-methylbenzyl)piperazine | 38.4 g | CC1=CC=C(CN2CCNCC2)C=C1 | C12H18N2
reactant | butyllithium | C(CCC)[Li]
reactant | 2-methoxy-β,β-dibromostyrene | 29.5 g | COC1=C(C=C(Br)Br)C=CC=C1 | C9H8Br2O
solvent | ethyl ether | 200 cc | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 cc | O1CCCC1 | C4H8O
product | 1-(2-Methoxyphenyl)-3-(4-methoxyphenylimino)-3-[4-(4-methylbenzyl)-1-piperazinyl]propyne | 30.6 g | COC1=C(C=CC=C1)C#CC(N1CCN(CC1)CC1=CC=C(C=C1)C)=NC1=CC=C(C=C1)OC | C29H31N3O2
